US05294734
5.9 g (20.5 mmol) of 7-acetoxy-2-formylamino-3-hydroxy-4-methylene-heptanoic acid ethyl ester are dissolved in 60 ml of dichloromethane, and 1.9 ml (24.6 mmol) of thionyl bromide are added dropwise at room temperature. After one hour, 40 ml of water are added and the mixture is stirred vigorously for 10 minutes. The organic phase is separated off, washed in succession with water, 1N KHCO3 solution and again with water, dried over MgSO4, filtered and concentrated by evaporation. 7-acetoxy-4-bromomethyl-2-formylamino-hept-3-enoic acid ethyl ester is obtained in the form of a brown oil, which is reacted further in the crude state.

reactant | 7-acetoxy-2-formylamino-3-hydroxy-4-methylene-heptanoic acid ethyl ester | 20.5 mmol, 5.9 g | C(C)OC(C(C(C(CCCOC(C)=O)=C)O)NC=O)=O | C13H21NO6
reactant | thionyl bromide | 24.6 mmol, 1.9 ml | S(=O)(Br)Br | Br2OS
reactant | water | 40 ml | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 7-acetoxy-4-bromomethyl-2-formylamino-hept-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCCOC(C)=O)CBr)NC=O)=O | C13H20BrNO5
